US05952511
(RS)-1-Benzyl-3-(ethoxycarbonylmethyl)-3-hydroxyindolin-2-one
To a solution of 2.4 ml of 1,1,1,3,3,3-hexamethyldisilazane in 10 ml of dry tetrahydrofuran was added dropwise 6.4 ml of a 1.59M hexane solution of n-butyl lithium at -78° C. under a nitrogen atmosphere, followed by stirring at that temperature for 10 minutes. To the mixture was slowly added 0.976 ml of ethyl acetate, followed by stirring at -78° C. for 30 minutes. To the mixture was further added a solution of 2.00 g of 1-benzylisatin in 10 ml of dry tetrahydrofuran, followed by stirring at that temperature for 1 hour. Water was added to the reaction mixture, and the product was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate to give 2.23 g (81%) of the title compound.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 2.4 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | hexane | 1.59M | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-benzylisatin | 2.00 g | C(C1=CC=CC=C1)N1C(=O)C(=O)C2=CC=CC=C12 | C15H11NO2
reactant | ethyl acetate | 0.976 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (RS)-1-Benzyl-3-(ethoxycarbonylmethyl)-3-hydroxyindolin-2-one | 2.23 g, 81% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)CC(=O)OCC)=O | C19H19NO4
